* AC Analysis, 19k lowPass, 3rd order Butterworth, 2 stages using AD8656

* Input signal for AC and transient sinusoidal analysis
VIN IN 0 AC 1 DC 2.5 SINE(0 2.16 1.85k)
* VNOISE IN 0 AC 0 DC 2.5

XB IN OUTB VCCG VEEG 0 sallenKeylowPassStageB
XA OUTB OUT VCCG VEEG 0 firstOrderlowPassStageA

VP VCCG 0 5
VM VEEG 0 0

*Simulation directive lines for AC Analysis
.AC DEC 100 1.9k 1Meg
*.TRAN 1n 210u
*.NOISE V(OUT) VNOISE DEC 100 1.9k 1Meg
.SUBCKT sallenKeylowPassStageB IN OUT VCC VEE GND
X1 INP OUT VCC VEE OUT AD8656
R1 IN 1 1.5k
R2 1 INP 3k
C1 1 OUT 8.2n
C2 INP GND 1.8n
.ENDS sallenKeylowPassStageB

.SUBCKT firstOrderlowPassStageA IN OUT VCC VEE GND
X1 INP OUT VCC VEE OUT AD8656
R1 IN INP 1k
C1 INP GND 8.2n
.ENDS firstOrderlowPassStageA

* AD8656 SPICE Macro-model
* Description: Amplifier
* Generic Desc: 2.7/5V, CMOS, OP, Low Noise, RRIO, 2X
* Developed by: ADSJ HH
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (06/2005)
* Copyright 2010, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include:
*
* END Notes
*
* Node Assignments
*                       noninverting input
*                       |   inverting input
*                       |   |    positive supply
*                       |   |    |   negative supply
*                       |   |    |   |   output
*                       |   |    |   |   |
*                       |   |    |   |   |
.SUBCKT AD8656      	1   2   99  50  45
*
* INPUT STAGE
*
M1  14  7  8  8 PIX L=1E-6 W=1.45E-02
M2  16  2  8  8 PIX L=1E-6 W=1.45E-02
M3  17  7 10 10 NIX L=1E-6 W=1.45E-02
M4  18  2 10 10 NIX L=1E-6 W=1.45E-02
RD1 14 50 8.00E+02
RD2 16 50 8.00E+02
RD3 99 17 8.00E+02
RD4 99 18 8.00E+02
C1  14 16 1.22E-12
C2  17 18 1.22E-12
I1  99  8 5.00E-04
I2  10 50 5.00E-04
V1  99  9 1.141E+00
V2  13 50 1.141E+00
D1   8  9 DX
D2  13 10 DX
EOS  7  1 POLY(4) (22,98) (73,98) (81,98) (70,98) 5.00E-05 1 1 1 1
IOS  1  2 5.00E-13
*
*CMRR=110dB, POLE AT 400 Hz
*
E1  21 98 POLY(2) (1,98) (2,98) 0 3.95E-02 3.95E-02
R10 21 22 3.98E+02
R20 22 98 1.59E-02
C10 21 22 1.00E-06
*
* PSRR=93dB, POLE AT 1500 Hz
*
EPSY 72 98 POLY(1) (99,50) -7.462403795 1.492480759
CPS3 72 73 1.00E-06
RPS3 72 73 1.06E+02
RPS4 73 98 1.59E-03
*
* VOLTAGE NOISE REFERENCE OF 2.7nV/rt(Hz)
*
VN1 80 98 0
RN1 80 98 16.45E-3
HN  81 98 VN1 2.39E+00
RN2 81 98 1
*
* FLICKER NOISE CORNER = 1200 Hz
*
D5  69 98 DNOISE
VSN 69 98 DC 0.6551
H1  70 98 POLY(1) VSN 1.00E-03 1.00E+00
RN  70 98 1
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 0.5 0.5
GSY  99 50 POLY(1) (99,50) 1.68E-03 1.10E-06
EVP  97 98 POLY(1) (99,50) 0 0.5
EVN  51 98 POLY(1) (50,99) 0 0.5
*
* GAIN STAGE
*
G1 98 30 POLY(2) (14,16) (17,18) 0 1.68E-04 1.68E-04
R1 30 98 1.00E+06
RZ 30 31 4.58E+01
CF 45 31 1.22E-11
V3 32 30 -4.95E-01
V4 30 33 -1.79E+00
D3 32 97 DX
D4 51 33 DX
*
* OUTPUT STAGE
*
M5  45 46 99 99 POX L=1E-6 W=2.37E-03
M6  45 47 50 50 NOX L=1E-6 W=2.81E-03
EG1 99 46 POLY(1) (98,30) 6.169E-01 1
EG2 47 50 POLY(1) (30,98) 5.934E-01 1
*
* MODELS
*
.MODEL POX PMOS (LEVEL=2,KP=1.00E-05,VTO=-0.328,LAMBDA=0.01,RD=0)
.MODEL NOX NMOS (LEVEL=2,KP=1.00E-05,VTO=+0.328,LAMBDA=0.01,RD=0)
.MODEL PIX PMOS (LEVEL=2,KP=1.00E-05,VTO=-0.5,LAMBDA=0.01)
.MODEL NIX NMOS (LEVEL=2,KP=1.00E-05,VTO=0.5,LAMBDA=0.01)
.MODEL DX D(IS=1E-14,RS=5)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=8.75E-12)
*
*
.ENDS AD8656
*
*




